### PR TITLE
Weak equivalences and structures

### PR DESCRIPTION
**Pull request by KobeWullaert**
In this PR, we show that (the left biadjoint characterizing) the Rezk completion lifts to the following structures:
- Finite colimits
- Regularity and exactness
- Parameterized NNO

### CODE REVIEW

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/ParameterizedNNO.v [hunk 1]
```diff
@@ -0,0 +1,59 @@
+(*
+  The Displayed Bicategory Of Categories With A Parameterized Natural Numbers Object
+
+  In this file, we construct the displayed bicategory of finitely complete categories equipped with a natural numbers object.
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/ParameterizedNNO.v]:
```suggestion
  In this file, we construct the displayed bicategory of finitely complete categories equipped with a parameterized natural numbers object.
```

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/RegularAndExact.v [hunk 2]
```diff
@@ -0,0 +1,89 @@
...
+Local Open Scope cat.
+
+(** * 1. Regular Categories *)
+Section RegularCategories.
+
+  Definition disp_bicat_regular'
+    : disp_bicat (total_bicat disp_bicat_limits).
+  Proof.
+    use disp_subbicat.
+    - exact (λ C, coeqs_of_kernel_pair (pr1 C) × RegularEpi.regular_epi_pb_stable (pr1 C)).
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/RegularAndExact.v]: Can you import the file `RegularEpi`, so that you do not need to qualify this name?

File: UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v [hunk 3]
```diff
@@ -678,3 +680,65 @@ Proof.
...
+Lemma parameterized_NNO_independent_of_terminal
+  {C : category} {T : Terminal C} {P : BinProducts C} (N : parameterized_NNO T P) (T' : Terminal C)
+  : parameterized_NNO T' P.
+Proof.
+  use make_parameterized_NNO.
+  - exact N.
+  - refine (_ · parameterized_NNO_Z N).
+    apply z_iso_Terminals.
+  - exact (parameterized_NNO_S N).
+  - intros b y z s.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v]: Can you make this part of the construction opaque?

File: UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v [hunk 4]
```diff
@@ -678,3 +680,65 @@ Proof.
...
+    + rewrite assoc.
+      assert (pf : TerminalArrow T' b · TerminalArrow T T' = TerminalArrow T b).
+      { use TerminalArrowUnique. }
+      rewrite pf.
+      apply idweq.
+    + apply idweq.
+Defined.
+
+(** * 9. Parameterized NNOs are unique up to isomorphism *)
+Lemma parameterized_NNO_unique_up_to_iso
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v]: Can you incorporate this in: https://github.com/UniMath/UniMath/blob/d6160b5f26fa812609d544315045b3ec3dc5a35e/UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v#L389

File: UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v [hunk 5]
```diff
@@ -678,3 +680,65 @@ Proof.
...
+  {C : category} {T : Terminal C} {P : BinProducts C} (N M : parameterized_NNO T P)
+  : z_iso N M.
+Proof.
+  exact (iso_between_NNO (parameterized_NNO_to_NNO N) (parameterized_NNO_to_NNO M)).
+Defined.
+
+Lemma parameterized_NNO_unique_up_to_iso'
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v]: - What is the difference between this lemma and the previous one? This one seems unnecessary
- Some parts should be made opaque

File: UniMath/CategoryTheory/Limits/BinCoproducts.v [hunk 6]
```diff
@@ -1548,3 +1552,85 @@ Proof.
...
+  Lemma isbincoproduct_of_isos
+        {C : category} {x1 x2 y1 y2 py : C}
+        (px : BinCoproduct x1 x2)
+        (i1 : z_iso y1 x1) (i2 : z_iso y2 x2)
+        (i : z_iso py px)
+        (f1 : C ⟦y1, py⟧) (f2 : C ⟦y2, py⟧)
+        (pf1 : i1 · BinCoproductIn1 px = f1 · i)
+        (pf2 : i2 · BinCoproductIn2 px = f2 · i)
+    : isBinCoproduct _ y1 y2 py f1 f2.
+  Proof.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Limits/BinCoproducts.v:1651]: It might be good to split this into lemmas and to make some parts opaque

File: UniMath/CategoryTheory/Limits/Coequalizers.v [hunk 7]
```diff
@@ -523,3 +523,57 @@ Proof.
...
       ).
 Defined.
+
+Proposition coequalizer_stable_under_iso
+  {C : category} {x x' y y' : C} (f g : C⟦x, y⟧) (f' g' : C⟦x',y'⟧)
+  (i : z_iso x' x) (j : z_iso y' y) (z : Coequalizer f g)
+  (p : f' · j = i · f)
+  (q : g' · j = i · g)
+  : Coequalizer f' g'.
+Proof.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Limits/Coequalizers.v]: It might be good to split this into lemmas and to make some parts opaque.

File: UniMath/CategoryTheory/Limits/Pullbacks.v [hunk 8]
```diff
@@ -1901,3 +1901,70 @@ Section PullbackIso.
...
+Proposition pullbacks_of_isos_to_iso
+  {C : category} {x x' y y' z z' : C}
+  {f : C⟦x, z⟧} {g : C⟦y, z⟧}
+  {f' : C⟦x', z'⟧} {g' : C⟦y', z'⟧}
+  (p : Pullback f g) (q : Pullback f' g')
+  (i : z_iso x x') (j : z_iso y y') (k : z_iso z z')
+  (pf : i · f' = f · k)
+  (pf' : j · g' = g · k)
+  : z_iso p q.
+Proof.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Limits/Pullbacks.v:1933]: More parts can be made opaque in this proof.

File: UniMath/CategoryTheory/WeakEquivalences/Exact.v [hunk 9]
```diff
@@ -0,0 +1,355 @@
...
+
+(** * 1. Reflection Of Equivalence Relations *)
+Section ReflectionOfRelations.
+
+  Context {C₀ C₁ : category} {F : functor C₀ C₁}
+    (F_weq : fully_faithful F).
+
+  Context {x₀ R₀ : C₀} {x₁ : C₁} (i_x : z_iso (F x₀) x₁).
+
+  Definition weak_equiv_reflect_rel_src
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Exact.v:73]: What is the type of this?

File: UniMath/CategoryTheory/WeakEquivalences/Exact.v [hunk 10]
```diff
@@ -0,0 +1,355 @@
...
+    (R₁ : internal_relation x₁)
+    (i_R : z_iso (F R₀) R₁)
+      := fully_faithful_inv_hom F_weq _ _ (i_R · internal_relation_src R₁ · inv_from_z_iso i_x).
+
+  Definition weak_equiv_reflect_rel_tgt
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Exact.v:79]: What is the type of this?

File: UniMath/CategoryTheory/WeakEquivalences/Exact.v [hunk 11]
```diff
@@ -0,0 +1,355 @@
...
+  Let coE := weak_equiv_preserves_coequalizer F_weq _ _ (pr1 R₀_eff).
+
+  Let pB_pf
+      : # F (internal_relation_src R₀) · # F (CoequalizerArrow (pr1 R₀_eff))
+        = # F (internal_relation_tar R₀) · # F (CoequalizerArrow (pr1 R₀_eff)).
+  Proof.
+    do 2 rewrite <- functor_comp.
+    apply maponpaths.
+    exact (CoequalizerEqAr (pr1 R₀_eff)).
+    Qed.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Exact.v:288]: Indenting, and it would be better to make this a `Local Lemma`

File: UniMath/CategoryTheory/WeakEquivalences/Exact.v [hunk 12]
```diff
@@ -0,0 +1,355 @@
...
+  Let pB := weak_equiv_preserves_pullbacks F_weq _ _ _ _ _ _ _ _ _ pB_pf (pr2 R₀_eff).
+
+  Lemma weak_equiv_preserves_effectivity_coeq
+    : Coequalizer (internal_relation_src R₁) (internal_relation_tar R₁).
+  Proof.
+    use (coequalizer_stable_under_iso _ _ _ _ _ _ coE).
+      - exact (z_iso_inv i_R).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Exact.v]: Indenting

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 13]
```diff
@@ -0,0 +1,770 @@
+(**
+   Preservation And Reflection Of Parameterized Natural Numbers Objects, by Weak Equivalences.
+
+   In this file, we show that any weak equivalence F : C -> D preserves a parameterized natural numbers object.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v]:
```suggestion
   In this file, we show that any weak equivalence F : C -> D preserves parameterized natural numbers objects.
```

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 14]
```diff
@@ -0,0 +1,770 @@
...
+
+  Context {C D : category}
+    {F : C ⟶ D} (F_weq : is_weak_equiv F)
+    {T_C : Terminal C} {P_C : BinProducts C} (N_C : parameterized_NNO T_C P_C)
+    (P_D : BinProducts D).
+
+  Let T_D : Terminal D
+      := weak_equiv_creates_terminal F_weq T_C.
+
+  Definition weak_equiv_preserves_parameterized_NNO_Z
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v:52]: What about just using the `Let` and not adding a `Definition`?

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 15]
```diff
@@ -0,0 +1,770 @@
...
+    : D⟦T_D, F N_C⟧
+    := #F (parameterized_NNO_Z N_C).
+  Let F_Z := weak_equiv_preserves_parameterized_NNO_Z.
+
+  Definition weak_equiv_preserves_parameterized_NNO_S
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v:57]: What about just using the `Let` and not adding a `Definition`?

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 16]
```diff
@@ -0,0 +1,770 @@
...
+    {b y : C}
+    (i_b : z_iso (F b) b')
+    (i_y : z_iso (F y) y').
+
+  Let bp (f : D⟦b', F N_C⟧)
+      := BinProductArrow D (P_D b' (F N_C)) (identity b') f.
+  Let bp' (f : D⟦F N_C, F N_C⟧)
+      := BinProductOfArrows D (P_D b' (F N_C)) (P_D b' (F N_C)) (identity b') f.
+
+  Let A
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v]:
```suggestion
  Let A : UU
```

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 17]
```diff
@@ -0,0 +1,770 @@
...
+    := #F (parameterized_NNO_S N_C).
+  Let F_S := weak_equiv_preserves_parameterized_NNO_S.
+
+  Context {b' y' : D}
+    (z' : D⟦b', y'⟧) (s' : D⟦y', y'⟧)
+    {b y : C}
+    (i_b : z_iso (F b) b')
+    (i_y : z_iso (F y) y').
+
+  Let bp (f : D⟦b', F N_C⟧)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v]: What are the types of `bp` and `bp'`?

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 18]
```diff
@@ -0,0 +1,770 @@
...
+      rewrite functor_comp, assoc.
+      apply maponpaths_2.
+      apply (TerminalArrowUnique T_D).
+  Qed.
+
+  Lemma reflection_parameterized_NNO_mor_Z (ϕ : A)
+    : BinProductArrow C (P_C b N_C) (identity b) (TerminalArrow T_C b · parameterized_NNO_Z N_C)
+        · inv_F ϕ = z.
+  Proof.
+    apply (faithful_reflects_morphism_equality _ (pr2 F_weq)).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v:177]: Indenting

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 19]
```diff
@@ -0,0 +1,770 @@
...
+
+  Context (N_D_p : is_parameterized_NNO T_D P_D N_D z_D s_D).
+
+  Local Lemma equiv_on_zero_mor
+    {b y : C} {z' : C ⟦ b, y ⟧}
+    (f : C⟦P_C b N_C, y⟧)
+    : BinProductArrow C (P_C b N_C) (identity b) (TerminalArrow T_C b · z_C) · f = z'
+      <-> BinProductArrow D (P_D (F b) N_D) (identity (F b)) (TerminalArrow T_D (F b) · z_D)
+          · (BinProductArrow D
+               (preserves_binproduct_to_binproduct F (weak_equiv_preserves_binproducts F_weq) (P_C b N_C)) (BinProductPr1 D (P_D (F b) N_D)) (BinProductPr2 D (P_D (F b) N_D)) · # F f) =
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v]: this line could be split

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 20]
```diff
@@ -0,0 +1,770 @@
...
+  Qed.
+
+  Local Lemma equiv_on_succ_mor
+    {b y : C} {s' : C⟦y, y⟧}
+    (f : C⟦P_C b N_C, y⟧)
+    : (BinProductOfArrows C (P_C b N_C) (P_C b N_C) (identity b) s_C · f = f · s')
+      <->
+        BinProductOfArrows D (P_D (F b) N_D) (P_D (F b) N_D) (identity (F b)) s_D
+          · (BinProductArrow D
+               (preserves_binproduct_to_binproduct F (weak_equiv_preserves_binproducts F_weq) (P_C b N_C)) (BinProductPr1 D (P_D (F b) N_D)) (BinProductPr2 D (P_D (F b) N_D)) · # F f)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v]: This line is long and can be split

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 21]
```diff
@@ -0,0 +1,770 @@
...
+
+  Let N2' : parameterized_NNO T2 P2.
+  Proof.
+    exact (weak_equiv_creates_parameterized_NNO G_weq N1 T2 P2).
+  Defined.
+
+  Let H_pt : preserves_terminal H
+      := weak_equiv_lifts_preserves_terminal α G_weq Fpt.
+
+  Let F_z := TerminalArrow (preserves_terminal_to_terminal F Fpt T1) T3 · # F (parameterized_NNO_Z N1).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v]: Add types for `F_z`, `F_s`, and `F_h`

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v [hunk 22]
```diff
@@ -0,0 +1,770 @@
...
+  Let F_s := (# F (parameterized_NNO_S N1)).
+  Let F_hn
+      := nat_z_iso_pointwise_z_iso (nat_z_iso_inv α) N1
+           · # H (parameterized_NNO_unique_up_to_iso' N2' N2).
+
+
+  Let H_z
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/PNNO.v]: Add types for `H_z` and `H_s`

File: UniMath/CategoryTheory/WeakEquivalences/Regular.v [hunk 23]
```diff
@@ -0,0 +1,159 @@
...
+        rewrite assoc;
+        apply maponpaths_2;
+        rewrite assoc;
+        refine (_ @ id_left _);
+        apply maponpaths_2;
+        apply z_iso_after_z_iso_inv).
+    - exact (z_iso_inv i_x).
+    - apply pathsinv0, (PullbackArrow_PullbackPr1 F_pb).
+    - apply pathsinv0, (PullbackArrow_PullbackPr2 F_pb).
+  Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Regular.v:83]: More can be made opaque (lines 81 and 82)

File: UniMath/CategoryTheory/WeakEquivalences/Regular.v [hunk 24]
```diff
@@ -0,0 +1,159 @@
...
+    set (π₂₀ := fully_faithful_inv_hom (ff_from_weak_equiv _ F_weq) _ _ π₂).
+
+    assert (pf : π₂ = #F π₂₀). {
+      apply pathsinv0, functor_on_fully_faithful_inv_hom.
+    }
+    apply (transportf is_regular_epi (! pf)).
+    apply (weak_equiv_preserves_regular_epi F_weq).
+
+    assert (p₀ : π₁₀ · f₀ = π₂₀ · g₀). {
+      use (faithful_reflects_morphism_equality _ (pr2 F_weq));
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Regular.v]: What is the point of chaining this? Why not use points which improves readability (then you can step through it)?

File: UniMath/CategoryTheory/WeakEquivalences/Regular.v [hunk 25]
```diff
@@ -0,0 +1,159 @@
...
+  Qed.
+
+End RegularEpiPullbackStability.
+
+Definition Rezk_completion_is_regular
+  {C₀ C₁ : category} {F : functor C₀ C₁} (F_weq : is_weak_equiv F) (C₁_univ : is_univalent C₁)
+  (R₀ : is_regular_category C₀)
+  : is_regular_category C₁.
+Proof.
+  induction R₀ as [T₀ [P₀ [A₀ B₀]]].
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Regular.v]: Is this induction necessary? There are accessors for regular categories, right?

File: UniMath/CategoryTheory/WeakEquivalences/RegularEpi.v [hunk 26]
```diff
@@ -0,0 +1,137 @@
...
+  exists (#F g₂).
+
+  assert (p' : # F g₁ · # F f = # F g₂ · #F f). {
+    do 2 rewrite <- functor_comp.
+    apply maponpaths.
+    exact p.
+  }
+  exists p'.
+  exact (weak_equiv_preserves_coequalizers F_weq _ _ _ _  _ _ _ p' pe).
+Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/RegularEpi.v]: What about making it `Qed`?

File: UniMath/CONTENTS.md [hunk 27]
```diff
@@ -0,0 +1,1566 @@
+# Contents of the UniMath library
```
Comment (nmvdw) [inline UniMath/CONTENTS.md]: This file should be removed.

File: UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v (hunk 5 above)
Comment (KobeWullaert) [reply UniMath/CategoryTheory/Arithmetic/ParameterizedNNO.v]: Regarding the difference, there is a difference between the 2 because using iso_between_NNO does not remember what the constructed isomorphism is (is_NNO is a proposition and hence the inhabitant is stored via a qed). In the manual proof, the morphism is explicit. 
This difference is relevant in the proof of weak_equiv_preserves_parameterized_NNO' (WeakEquivalences/PNNO.v).

File: UniMath/CategoryTheory/WeakEquivalences/PNNO.v (hunk 15 above)
Comment (KobeWullaert) [reply UniMath/CategoryTheory/WeakEquivalences/PNNO.v:57]: I have used only the let and I did not use the definition in other places, but is this not a "too be expected"-definition in the sense that if the material is used, you would would want to have accessor for this (as opposed to having to do something of the form: parameterized_NNO_S (weak_equiv_preserves_parameterized_NNO ...))?

**Comment by nmvdw** [comment]
Error:
```
File "./UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/BinCoproducts.v", line 71, characters 2-40:
  Error:
  In environment
  C1 : category
  C2, C3 : univalent_category
  F : C1 ⟶ C3
  G : C1 ⟶ C2
  H : C2 ⟶ C3
  α : nat_z_iso (G ∙ H) F
  Gw : is_weak_equiv G
  Fprod : preserves_bincoproduct F
  y1, y2, py : C2
  π₁p : C2 ⟦ y1, py ⟧
  π₂p : C2 ⟦ y2, py ⟧
  p_ispr : isBinCoproduct C2 y1 y2 py π₁p π₂p
  x1 : C1
  i1 : z_iso (G x1) y1
  x2 : C1
  i2 : z_iso (G x2) y2
  px : C1
  i : z_iso (G px) py
  G_reflect := weak_equiv_reflects_coproducts (ff_from_weak_equiv G Gw) x1 x2
                 px
   : ∏ (π₁ : C1 ⟦ x1, px ⟧) (π₂ : C1 ⟦ x2, px ⟧),
     isBinCoproduct C2 (G x1) (G x2) (G px) (# G π₁) (# G π₂)
     → isBinCoproduct C1 x1 x2 px π₁ π₂
  π₁ := fully_faithful_inv_hom (ff_from_weak_equiv G Gw) x1 px
          (i1 · π₁p · z_iso_inv i) : C1 ⟦ x1, px ⟧
  π₂ := fully_faithful_inv_hom (ff_from_weak_equiv G Gw) x2 px
          (i2 · π₂p · z_iso_inv i) : C1 ⟦ x2, px ⟧
  is1 := z_iso_comp (functor_on_z_iso H (z_iso_inv i1)) (pr1 α x1,, pr2 α x1)
   : z_iso (H y1) (F x1)
  is2 := z_iso_comp (functor_on_z_iso H (z_iso_inv i2)) (pr1 α x2,, pr2 α x2)
   : z_iso (H y2) (F x2)
  pf1 : i1 · π₁p = # G π₁ · i
  pf2 : i2 · π₂p = # G π₂ · i
  The term "is1" has type "z_iso (H y1) (F x1)"
  while it is expected to have type "ob ?C".
  ```

**Comment by nmvdw** [comment]
Error:
```
  File "./Satellite/Modules/Prelims/lib.v", line 31, characters 15-61:
  Error: Error: Cannot find a physical path bound to logical path
  UniMath.CategoryTheory.Adjunctions.Reflections.
  
          coqc Satellite/Modules/Prelims/lib.{glob,vo} (exit 1)
  File "./Satellite/Modules/Prelims/lib.v", line 31, characters 15-61:
  Error: Error: Cannot find a physical path bound to logical path
  UniMath.CategoryTheory.Adjunctions.Reflections.
  ```
  
  The fix was already merged, right? Is the new error caused by this PR?
